US05198451
(R)-N-(2-(3,3-Bis(4-(Trifluoromethyl)phenyl)-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid
(R)-N-(2-(3,3-bis(4-(trifluoromethyl)phenyl)-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (2.0 g, 3.8 mmol) was dissolved in ethanol (30 ml) and a 1 M sodium hydroxide solution (17 ml) was added. The reaction mixture was stirred at room temperature for 3 h. The solvent was evaporated in vacuo and dichloromethane (100 ml) was added. A concentrated hydrochloric acid solution was added (1.9 ml) and the phases were separated. Ethyl acetate was added to the organic phase which was then dried over sodium sulphate. The solvent was evaporated in vacuo to give 2.0 g (99%) of the title compound as a solid.

reactant | (R)-N-(2-(3,3-bis(4-(trifluoromethyl)phenyl)-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 3.8 mmol, 2.0 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC=C(C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C27H29F6NO3
reactant | sodium hydroxide | 1 M, 17 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (R)-N-(2-(3,3-Bis(4-(Trifluoromethyl)phenyl)-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid | 2.0 g, 99% | FC(C1=CC=C(C=C1)C(=CCOCCN1C[C@@H](CCC1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C25H25F6NO3
